US08106090B2
[(1R,2S)-1-Benzyl-3-([2S]-2-carbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.10 g, 0.38 mmol) and (S)-proline amide (0.114 g, 0.57 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.38 mmol, 0.10 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | (S)-proline amide | 0.57 mmol, 0.114 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
product | [(1R,2S)-1-Benzyl-3-([2S]-2-carbamoyl-pyrrolidin-1-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1[C@@H](CCC1)C(N)=O)O)CC1=CC=CC=C1)=O | C20H31N3O4
